* source W2
R_R3         N05077 N05093  330 TC=0,0 
D_D1         N05093 N05119 D1N5819/ON 
C_C1         0 N05035  1n  TC=0,0 
R_R2         N05043 N05093  100k TC=0,0 
R_R1         0 N05043  139k TC=0,0 
X_D2         0 N05119 1n5231/ON
R_R4         N05035 N05093  4.7k TC=0,0 
V_V1         +VCC 0 7.5Vdc
V_V2         -VCC 0 -7.5Vdc
X_U11A         N05043 N05035 +VCC -VCC N05077 TL082/301/TI
X_U11B         N05119 VOUT2 +VCC -VCC VOUT2 TL082/301/TI
