* source W3
R_R12         N05986 N06044  4.7k TC=0,0 
X_U12B         N06070 VOUT3 +VCC -VCC VOUT3 LM2904/ON
R_R11         N06028 N06044  330 TC=0,0 
X_D6         0 N06070 1n5231/ON
D_D7         N06044 N06070 D1N4148_1 
R_R9         0 N05994  139k TC=0,0 
X_U11A         N05994 N05986 +VCC -VCC N06028 LM2904/ON
R_R10         N05994 N06044  100k TC=0,0 
C_C3         0 N05986  .1u  TC=0,0 
V_V2         -VCC 0 -7.5Vdc
V_V1         +VCC 0 7.5Vdc
V_V3         N07041 0 -5Vdc
D_D9         N07041 0 D1N5819 
