* source W4
D_D8         N07872 N07898 D1N5819/ON 
R_R15         N07856 N07872  5k TC=0,0 
X_U12A         N07822 N07814 +VCC -VCC N07856 LM2904/ON
C_C4         0 N07814  .1u  TC=0,0 
X_U13B         N07898 VOUT4 +VCC -VCC VOUT4 LM2904/ON
R_R13         0 N07822  139k TC=0,0 
X_D9         0 N07898 1n5231/ON
R_R16         N07814 N07872  4.7k TC=0,0 
R_R14         N07822 N07872  100k TC=0,0 
V_V2         -VCC 0 -7.5Vdc
V_V1         +VCC 0 7.5Vdc
