* source WAVEFORM
V_V1         +VCC 0 7.5Vdc
V_V2         -VCC 0 -7.5Vdc
R_R7         N01957 N01973  330 TC=0,0 
R_R5         0 N01923  139k TC=0,0 
R_R6         N01923 N01973  100k TC=0,0 
C_C2         0 N01915  .1u  TC=0,0 
R_R8         N01915 N01973  4.7k TC=0,0 
X_D4         0 N01999 1n5231/ON
D_D3         N01973 N01999 D1N5819/ON 
X_U2A         N01923 N01915 +VCC -VCC N01957 LM2904/ON
X_U2B         N01999 VOUT1 +VCC -VCC VOUT1 LM2904/ON
