* source T
X_U1         N00356 N00360 +10V -10V N00585 LM741
X_U2         N00585 DIRECT +10V -10V DIRECT LM741
D_D1         N00585 N009551 D1N4617 
D_D2         0 N009551 D1N4617 
R_R3         N04022 N03994  1.25k TC=0,0 
X_D6         0 N04048 1n5231/ON
R_R5         N03998 N04022  100k TC=0,0 
C_C1         0 N03994  0.1u  TC=0,0 
R_R4         N03998 0  139k TC=0,0 
R_R6         N04034 N04022  330 TC=0,0 
X_U5B         N04048 SQUARE +10V -10V SQUARE LM2904/ON
D_D5         N04022 N04048 D1N5819/ON 
X_U5A         N03998 N03994 +10V -10V N04034 LM2904/ON
X_U6         DIRECT SQUARE +10V -10V N08387 LM741
R_R7         N08387 ALTERNATING  1k TC=0,0 
V_V7         +10V 0 10Vdc
V_V6         -10V 0 -10Vdc
R_R10         TESTWAVE N00360  10k TC=0,0 
R_R11         REFERENCE N00356  100k TC=0,0 
R_R12         0 N16156  16 TC=0,0 
X_Q1         +10V ALTERNATING N16156 awb2n2222a PARAMS:                        
+                     
X_D7         0 ALTERNATING awb1n4621 PARAMS:               
X_Q2         +10V DIRECT N173240 awb2n2222a PARAMS:                            
+                 
R_R13         N18335 N173240  13.3 TC=0,0 
D_D9         N18335 0 LP_M675-TYP 
X_U7         0 TMP20 REFERENCE T TMP20 
V_V10         T 0  AC 0
+SIN 40 10 .001 0 0 0
V_V12         TESTWAVE 0  AC 0
+SIN 3.5 0.3 100 0 0 0
R_R19         N28783 TEMPERATURE  30.2k TC=0,0 
R_R18         0 N28783  20k TC=0,0 
X_U9         N28777 N28783 +10V -10V TEMPERATURE LM741
R_R20         TMP20 N28777  100k TC=0,0 
X_U10         N29557 N29563 +10V -10V REFERENCE LM741
R_R22         N29563 REFERENCE  35k TC=0,0 
R_R21         -10V N29563  100k TC=0,0 
R_R23         0 N29557  100k TC=0,0 
