* source T
D_D5         0 N54496 D1N4617 
R_R12         0 N38492  100k TC=0,0 
R_R16         N38736 N39372  10k TC=0,0 
R_R2         N39032 N39020  330 TC=0,0 
R_R11         N39692 N39698  1.8k TC=0,0 
V_V1         +10V 0 10Vdc
X_U1A         N39006 N39002 +10V -10V N39032 LM2904/ON
D_D1         N39020 N39042 D1N5819/ON 
R_R19         0 BUZZER  16 TC=0,0 
R_R1         N39020 N39002  4.7k TC=0,0 
X_U3         N38492 N38498 +10V -10V N38520 LM741
R_R6         N38498 N43978  33k TC=0,0 
R_R4         N39006 N43647  9.1k TC=0,0 
V_V2         -10V 0 -10Vdc
V_V3         N38736 0  AC 0
+SIN 3.5 0.06 100 0 0 0
R_R10         -10V N38498  100k TC=0,0 
C_C1         0 N39002  0.1u  TC=0,0 
X_U1B         N39042 N39072 +10V -10V N39072 LM2904/ON
X_U4         N39366 N39372 +10V -10V DC LM741
R_R8         N38520 N39366  390 TC=0,0 
X_U2         DC N39072 +10V -10V N39692 LM741
R_R5         N39006 N39020  100k TC=0,0 
X_Q1         +10V AC BUZZER awb2n2222a PARAMS:                                 
+            
D_D4         DC N54496 D1N4617 
X_D2         0 N39042 1n5231/ON
R_R9         N39366 DC  56k TC=0,0 
R_R3         N43647 0  130k TC=0,0 
R_R7         N43978 N38520  2.4k TC=0,0 
R_R13         AC N39698  1.8k TC=0,0 
D_D3         0 N39698 D1N4099 
X_U5         N52083 N52089 +10V -10V TEMPERATURE LM741
R_R15         0 N52089  20k TC=0,0 
X_U6         0 N53476 N38520 N53326 TMP20 
R_R18         N53476 N52083  100k TC=0,0 
V_V4         N53326 0  AC 0
+SIN 40 10 .001 0 0 0
D_D6         LED 0 LP_A676-TYP 
R_R17         LED DC  56 TC=0,0 
R_R14         N59190 TEMPERATURE  200 TC=0,0 
R_R20         N52089 N59190  30k TC=0,0 
