* source T
D_D2         0 N394881 D1N4617 
R_R23         0 N38492  100k TC=0,0 
R_R10         N39556 N39372  10k TC=0,0 
R_R6         N39032 N39020  330 TC=0,0 
R_R7         N39692 N39686  1.8k TC=0,0 
V_V7         +10V 0 10Vdc
X_U5A         N39006 N39002 +10V -10V N39032 LM2904/ON
D_D5         N39020 N39042 D1N5819/ON 
R_R12         0 N39198  16 TC=0,0 
R_R3         N39020 N39002  1.25k TC=0,0 
X_U10         N38492 N38498 +10V -10V N38520 LM741
R_R22         N38498 N43978  33k TC=0,0 
R_R13         N392921 N39228  56 TC=0,0 
R_R4         N39006 N43647  9.1k TC=0,0 
V_V6         -10V 0 -10Vdc
V_V12         TESTWAVE 0  AC 0
+SIN 3.5 0.3 100 0 0 0
R_R21         -10V N38498  100k TC=0,0 
C_C1         0 N39002  0.1u  TC=0,0 
X_U11B         N39042 N39072 +10V -10V N39072 LM2904/ON
X_U1         N39366 N39372 +10V -10V N39228 LM741
R_R11         N38520 N39366  390 TC=0,0 
X_U6         N39228 N39072 +10V -10V N39692 LM741
R_R5         N39006 N39020  100k TC=0,0 
X_Q1         +10V N40006 N39198 awb2n2222a PARAMS:                             
+                
D_D1         N39228 N394881 D1N4617 
X_D6         0 N39042 1n5231/ON
V_V13         N39556 0  AC 0
+SIN 3.5 0.06 100 0 0 0
R_R24         N39366 N39228  56k TC=0,0 
R_R25         N43647 0  130k TC=0,0 
R_R26         N43978 N38520  2.4k TC=0,0 
R_R29         N40006 N39686  1.8k TC=0,0 
D_D11         0 N39686 D1N4099 
D_D12         N392921 0 LP_M676-TYP 
X_U7         0 TMP20 N38520 T TMP20 
V_V10         T 0  AC 0
+SIN 40 10 .001 0 0 0
R_R14         N74381 TEMP  200 TC=0,0 
R_R30         N74271 N74381  30k TC=0,0 
R_R16         TMP20 N74969  100k TC=0,0 
R_R17         0 N74271  20k TC=0,0 
X_U12         N74969 N74271 +10V -10V TEMP LM741
